US06201027B1
4-Chloro-3-(methylsulfonyl)benzoic acid methyl ester
4-Chloro-3-[(carboxymethyl)sulfonyl]benzoic acid methyl ester (5.6 g) was mixed with pyridine (10 mL) and the mixture was refluxed for 30 min and then cooled to room temperature. The product was precipitated by adding water (30 mL). The precipitate was filtered, washed with water and dried (yield 2.5 g). 1H-NMR (400 MHz, DMSO-d6) d=3.43 (s, 3H), 3.92 (s, 3H), 7.92 (d, J=8.2 Hz, 1H), 8.24 (dd, J=8.2 Hz, 2.2 Hz, 1H), 8.53 (d, J=2.2 Hz, 1H).

reactant | 4-Chloro-3-[(carboxymethyl)sulfonyl]benzoic acid methyl ester | 5.6 g | COC(C1=CC(=C(C=C1)Cl)S(=O)(=O)CC(=O)O)=O | C10H9ClO6S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-3-(methylsulfonyl)benzoic acid methyl ester | COC(C1=CC(=C(C=C1)Cl)S(=O)(=O)C)=O | C9H9ClO4S
